US08492577B2
EP 1777224 describes the condensation of p-Bromobenzaldehyde with L-valine followed by reduction with sodium borohydride to give (S)-2-(4-bromobenzyl)amino-3-methylbutyric acid. (S)-2-(4-bromobenzyl)amino-3-methyl butyric acid is treated with valerylchloride to give (S)-2-(4-bromobenzyl)-pentanoyl-amino-3-methyl butyric acid. (S)-2-(4-bromobenzyl)-pentanoyl-amino-3-methyl butyric acid is treated with 2-(2H-tetrazol-5-yl)benzene-boronic acid in tetrahydrofuran, triphenylphosphine and palladiumacetate yield valsartan.

reactant | p-Bromobenzaldehyde | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | L-valine | N[C@@H](C(C)C)C(=O)O | C5H11NO2
reactant | sodium borohydride | [BH4-].[Na+]
product | (S)-2-(4-bromobenzyl)amino-3-methylbutyric acid | BrC1=CC=C(CN[C@H](C(=O)O)C(C)C)C=C1 | C12H16BrNO2
